US09301951B2
Intermediate 3.2c: tert-butyl 3-((3-((4-(piperidin-1-yl)-2-(6-((3-methyl benzyl)amino)-pyrimidin-4-yl)phenyl)carbamoyl)benzyl)thio)propanoate
Into a 50-mL round-bottom flask, was placed a solution of 3-((3-tert-butoxy-3-oxopropylthio)methyl)benzoic acid (143 mg, 0.48 mmol, 1.00 equiv) in dichloromethane (10 mL), EDC HCl (139 mg, 0.72 mmol, 1.50 equiv), 4-dimethylaminopyridine (89 mg, 0.69 mmol, 1.50 equiv), and 6-(2-amino-5-(piperidin-1-yl)phenyl)-N-(3-methylbenzyl)pyrimidin-4-amine (180 mg, 0.48 mmol, 1.00 equiv). The resulting solution was stirred overnight at room temperature. The resulting mixture was concentrated under vacuum. The residue was applied onto a silica gel column and eluted with petroleum ether/ethyl acetate (5:1). This resulted in 200 mg (57%) of product as yellow oil.

reactant | 3-((3-tert-butoxy-3-oxopropylthio)methyl)benzoic acid | 0.48 mmol, 143 mg, 1.00 equiv | C(C)(C)(C)OC(CCSCC=1C=C(C(=O)O)C=CC1)=O | C15H20O4S
reactant | EDC HCl | 0.72 mmol, 139 mg, 1.50 equiv | CCN=C=NCCCN(C)C.Cl
reactant | 6-(2-amino-5-(piperidin-1-yl)phenyl)-N-(3-methylbenzyl)pyrimidin-4-amine | 0.48 mmol, 180 mg, 1.00 equiv | NC1=C(C=C(C=C1)N1CCCCC1)C1=CC(=NC=N1)NCC1=CC(=CC=C1)C | C23H27N5
solvent | dichloromethane | 10 mL | ClCCl | CH2Cl2
catalyst | 4-dimethylaminopyridine | 0.69 mmol, 89 mg, 1.50 equiv | CN(C1=CC=NC=C1)C | C7H10N2
product | tert-butyl 3-((3-((4-(piperidin-1-yl)-2-(6-((3-methyl benzyl)amino)-pyrimidin-4-yl)phenyl)carbamoyl)benzyl)thio)propanoate | 200 mg, 57% | N1(CCCCC1)C1=CC(=C(C=C1)NC(=O)C=1C=C(CSCCC(=O)OC(C)(C)C)C=CC1)C1=NC=NC(=C1)NCC1=CC(=CC=C1)C | C38H45N5O3S
